US07799797B2
3-[6-(3-Fluoro-benzenesulfonyl)-naphthalen-1-yl]-propionic acid ethyl ester (2.0 g) was dissolved in 25 mL ethanol, and 10 mL of 25% aqueous NaOH was added. The reaction mixture was heated to reflux for one hour, then cooled to room temperature. The ethanol was removed under reduced pressure, and the liquid residue was acidified by addition of 10% aqueous HCl. The mixture was extracted with EtOAc, and the combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure to give a crude oil. The oil was dissolved in warm toluene and insolubles were removed by filtration. The filtrate was concentrated under reduced pressure to give 1.6 g of 3-[6-(3-fluoro-benzenesulfonyl)-naphthalen-1-yl]-propionic acid.

reactant | 3-[6-(3-Fluoro-benzenesulfonyl)-naphthalen-1-yl]-propionic acid ethyl ester | 2.0 g | C(C)OC(CCC1=CC=CC2=CC(=CC=C12)S(=O)(=O)C1=CC(=CC=C1)F)=O | C21H19FO4S
reactant | NaOH | 10 mL | [OH-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[6-(3-fluoro-benzenesulfonyl)-naphthalen-1-yl]-propionic acid | 1.6 g | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2C=CC=C(C2=CC1)CCC(=O)O | C19H15FO4S
